US07214800B2
a) 2-[(R)-1-(3-Toluoyloxy-2-oxo-propylamino)-2-methyl-propyl]-3-benzyl-7-chloro-3H-quinazolin-4-one
To 2-((R)-1-amino-2-methyl-propyl)-3-benzyl-7-chloro-3H-quinazolin-4-one (1.0 g, 2.9 mMol) in DMF (10 mL) was added DIEA (0.6 mL, 3.4 mMol) and 1-toluoyloxy-3-bromopropan-2-one (1.0 g, 3.7 mMol) (Prepared using the procedure of F. C. Hartman, Biochemistry, 9, 1776 (1970) except substituting toluoyl chloride for benzoyl chloride.) The reaction was stirred at RT for 18 h, concentrated under vacuum, taken up in EtOAc, washed with 1 N Na2CO3, dried (Na2SO4) and evaporated to dryness. The product was converted to its hydrochloride salt by treating with 4 N HCl in dioxane (20 mL) and concentration under vacuum. Trituration with (1:1) Et2O/pet. ether, filtration and drying under vacuum left the title compound (1.87 g, 100%, 88% pure) as a beige solid: MS (ES) m/e 532.2 (M+H)+.

reactant | 2-((R)-1-amino-2-methyl-propyl)-3-benzyl-7-chloro-3H-quinazolin-4-one | 2.9 mMol, 1.0 g | N[C@H](C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl | C19H20ClN3O
reactant | DIEA | 3.4 mMol, 0.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-toluoyloxy-3-bromopropan-2-one | 3.7 mMol, 1.0 g | C=1(C(=CC=CC1)C(=O)OCC(CBr)=O)C | C11H11BrO3
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[(R)-1-(3-Toluoyloxy-2-oxo-propylamino)-2-methyl-propyl]-3-benzyl-7-chloro-3H-quinazolin-4-one | C1(=CC(=CC=C1)C(=O)ON([C@H](C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)CC(C)=O)C | C30H30ClN3O4
